US05852031
A solution of 0.385 g (1.55 mmol) of (7R,9aS)-7-hydroxymethyl-2-(pyrimidin-2-yl)-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine (Preparation 4), 0.220 g (2.34 mmol) of phenol, and 0.488 g (1.86 mmol) of triphenylphosphine in 30 mL of dry THF was treated with 0.324 g (1.86 mmol) of diethyl azodicarboxylate, and the mixture stirred at 23° C. for 16 h. The solvent was evaporated, the residue dissolved in ethyl ether and treated with HCl(g) in ether. The precipitate was collected on a Buchner funnel, and washed with 1:1 ether:ethyl acetate three times. The solid was dissolved in water, basified with 1M NaOH and extracted with chloroform. The organic layer was washed with 1M NaOH (2×) and water (1×), dried (magnesium sulfate), filtered and evaporated to give 0.310 g of (7R,9aS)-7-phenoxymethyl-2,3,4,6,7,8,9,9a-octahydro-2-pyrimidin-2-yl-1H-pyrido[1,2-a]pyrazine. mp (.HCl) 203°-205° C. 13C NMR (base, CDCl3): δ 27.0, 29.0, 36.4, 43.6, 49.1, 54.9, 58.8, 60.8, 70.9, 109.8, 114.5, 120.6, 129.4, 157.7, 159.0, 161.5. HRMS calcd for C19H24N4O: 324.195. Found: 324.194.

reactant | (7R,9aS)-7-hydroxymethyl-2-(pyrimidin-2-yl)-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine | 1.55 mmol, 0.385 g | OC[C@@H]1CC[C@@H]2N(CCN(C2)C2=NC=CC=N2)C1 | C13H20N4O
reactant | phenol | 2.34 mmol, 0.220 g | C1(=CC=CC=C1)O | C6H6O
reactant | triphenylphosphine | 1.86 mmol, 0.488 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 1.86 mmol, 0.324 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | (7R,9aS)-7-phenoxymethyl-2,3,4,6,7,8,9,9a-octahydro-2-pyrimidin-2-yl-1H-pyrido[1,2-a]pyrazine | 0.310 g | O(C1=CC=CC=C1)C[C@@H]1CC[C@@H]2N(CCN(C2)C2=NC=CC=N2)C1 | C19H24N4O
